US08278473B2
To a suspension of 10.6 g (250 mmol) of sodium hydride (60% in oil) in 150 ml of DMF was added dropwise a mixture of 20 g (226 mmol) of methyl propionate and 20.4 g (340 mmol) of methyl formate under ice cooling and stirred at room temperature overnight. To the reaction mixture was added portionwise 34.6 g (181 mmol) of p-toluenesulfonyl chloride under ice cooling and stirred at room temperature for 1 hour. After dilution with tert-butyl methyl ether, the solution was washed sequentially with water and saturated NaCl solution, dried over anhydrous MgSO4, and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1 to obtain 11.0 g of (E)-methyl 2-methyl-3-(p-toluenesulfonyloxy)-2-propenoate.

reactant | sodium hydride | 250 mmol, 10.6 g | [H-].[Na+]
reactant | methyl propionate | 226 mmol, 20 g | C(CC)(=O)OC | C4H8O2
reactant | methyl formate | 340 mmol, 20.4 g | C(=O)OC | C2H4O2
reactant | p-toluenesulfonyl chloride | 181 mmol, 34.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | (E)-methyl 2-methyl-3-(p-toluenesulfonyloxy)-2-propenoate | 11.0 g | C/C(/C(=O)OC)=C\OS(=O)(=O)C1=CC=C(C=C1)C | C12H14O5S
